US07807709B2
N-[(3S*,4S*)-4-(3-Benzyl-1-cyclopropyl-ureidomethyl)-pyrrolidin-3-ylmethyl]-N-isopropyl-4-methoxy-3-(3-methoxy-propoxy)-benzamide
(3R*,4R*)-3-(3-Benzyl-1-cyclopropyl-ureidomethyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl Ester To a solution of ((3R*,4R*)-3-cyclopropylaminomethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (235 mg, 0.440 mmol) in THF (6 mL) is added triethylamine (123 μL, 0.880 mmol) followed by benzylisocyanate (54 μL, 0.440 mmol). The mixture is stirred at RT for 2 h before water is added. Extraction with ethyl acetate, drying of the combined extracts (Na2SO4), filtration and evaporation of the solvent affords the crude product which is purified by flash chromatography on silica gel (eluent gradient: CH2Cl2 100% to CH2Cl2/MeOH 9:1) to give the title compound. MS (LC-MS): 667.1M+H]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 ml/min): 6.26 min.

reactant | (3R*,4R*)-3-(3-Benzyl-1-cyclopropyl-ureidomethyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl Ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CN(C(=O)NCC1=CC=CC=C1)C1CC1 | C37H54N4O7
reactant | (3R*,4R*)-3-cyclopropylaminomethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.440 mmol, 235 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CNC1CC1 | C29H47N3O6
reactant | triethylamine | 0.880 mmol, 123 μL | C(C)N(CC)CC | C6H15N
reactant | benzylisocyanate | 0.440 mmol, 54 μL | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-[(3S*,4S*)-4-(3-Benzyl-1-cyclopropyl-ureidomethyl)-pyrrolidin-3-ylmethyl]-N-isopropyl-4-methoxy-3-(3-methoxy-propoxy)-benzamide | C(C1=CC=CC=C1)NC(N(C1CC1)C[C@H]1[C@@H](CNC1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)=O | C32H46N4O5
